US05849735
N-[5-[(5,11-Dihydro-10H-dibenz[b,e][1,4]diazepin-10-yl)carbonyl]-2-pyridinyl][1,1'-biphenyl]-2-carboxamide
As described for example 12, 5,11-dihydro-10H-dibenz[b,e][1,4]diazepine is reacted with 6-[([1,1'-biphenyl]-2-ylcarbonyl)amino]-3-pyridinecarbonyl chloride to give the product as a solid.

reactant | 5,11-dihydro-10H-dibenz[b,e][1,4]diazepine | C1=CC=CC=2NC3=C(NCC21)C=CC=C3 | C13H12N2
reactant | 6-[([1,1'-biphenyl]-2-ylcarbonyl)amino]-3-pyridinecarbonyl chloride | C1(=C(C=CC=C1)C(=O)NC1=CC=C(C=N1)C(=O)Cl)C1=CC=CC=C1 | C19H13ClN2O2
product | N-[5-[(5,11-Dihydro-10H-dibenz[b,e][1,4]diazepin-10-yl)carbonyl]-2-pyridinyl][1,1'-biphenyl]-2-carboxamide | C1=CC=CC=2NC3=C(N(CC21)C(=O)C=2C=CC(=NC2)NC(=O)C=2C(=CC=CC2)C2=CC=CC=C2)C=CC=C3 | C32H24N4O2
